US09085540B2
To a mixture of [(2S)-1-methyl-4-(4-nitrophenyl)piperazin-2-yl]methanol (315 mg) and ethanol (5.081 mL) was added 10% palladium-supported carbon (53% wet product) (267 mg), followed by stirring at room temperature for 4 hours under a hydrogen gas atmosphere (1 atm). The reactant was filtered through celite and then the solvent was evaporated under reduced pressure to obtain [(2S)-4-(4-aminophenyl)-1-methylpiperazin-2-yl]methanol (278 mg) as a solid.

reactant | [(2S)-1-methyl-4-(4-nitrophenyl)piperazin-2-yl]methanol | 315 mg | CN1[C@@H](CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])CO | C12H17N3O3
catalyst | palladium | 267 mg | [Pd] | Pd
solvent | ethanol | 5.081 mL | C(C)O | C2H6O
product | [(2S)-4-(4-aminophenyl)-1-methylpiperazin-2-yl]methanol | 278 mg | NC1=CC=C(C=C1)N1C[C@H](N(CC1)C)CO | C12H19N3O
